US04906628
5-[4-(4-Oxo-1,4-dihydropyridin-1-yl)phenyl]-1,3,4-thiadiazol-2(3H)-one
A mixture of 5-(4-aminophenyl)-1,3,4-thiadiazol-2(3H)-one hydrochloride (1.25 g), 4H-pyran-4-one (0.58 g), ethanol (10 ml) and water (50 ml) was stirred under reflux under nitrogen for 31/2 hours. The cooled reaction mixture was filtered and the collected orange solid was washed with aqueous potassium hydrogen carbonate and water and was dried. The crude product (1.35 g) was treated with boiling dimethylformamide (200 ml) and the resultant suspension was cooled and filtered. The collected solid was washed with ethanol and ether, dried and suspended in water (100 ml). Sufficient aqueous sodium hydroxide (2N) was added to the suspension to form a solution which was filtered. The filtrate was acidified to pH 6 with hydrochloric acid which caused the precipitation of the title compound as a yellow solid, 0.96 g, m.p. 343°-4° C. (decomp).

reactant | 5-(4-aminophenyl)-1,3,4-thiadiazol-2(3H)-one hydrochloride | 1.25 g | Cl.NC1=CC=C(C=C1)C1=NNC(S1)=O
reactant | 4H-pyran-4-one | 0.58 g | O1C=CC(C=C1)=O | C5H4O2
reactant | ethanol | 10 ml | C(C)O | C2H6O
solvent | water | 50 ml | O | H2O
product | 5-[4-(4-Oxo-1,4-dihydropyridin-1-yl)phenyl]-1,3,4-thiadiazol-2(3H)-one | O=C1C=CN(C=C1)C1=CC=C(C=C1)C1=NNC(S1)=O | C13H9N3O2S
